US08030486B2
To a mixture of ethyl 2-cyano-2-hydroxyiminoacetate (100 g, 0.704 mol) and water (600 ml), were added a saturated aqueous solution of sodium bicarbonate (200 ml) and sodium hydrosulfite (340 g, 1.96 mol) under ice-cooling, and then benzyloxycarbonyl chloride (144 g, 0.848 mol) was added dropwise under ice-cooling. After the addition was completed, the reaction solution was stirred at 20-30° C. for about 4 hours. Completion of the reaction was confirmed using TLC shown below, precipitated crystals were collected by filtration and washed with sprayed water (50 ml×3). The obtained crystals were recrystallized from ethanol (600 ml), filtered and washed with sprayed ethanol (50 ml×3), dried in airflow at 40° C. to give ethyl 2-benzyloxycarbonylamino-2-cyanoacetate (118.7 g, yield 64.2%).

reactant | ethyl 2-cyano-2-hydroxyiminoacetate | 0.704 mol, 100 g | C(#N)C(C(=O)OCC)=NO | C5H6N2O3
reactant | sodium bicarbonate | 200 ml | C([O-])(O)=O.[Na+]
reactant | sodium hydrosulfite | 1.96 mol, 340 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | benzyloxycarbonyl chloride | 0.848 mol, 144 g | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
solvent | water | 600 ml | O | H2O
product | ethyl 2-benzyloxycarbonylamino-2-cyanoacetate | 118.7 g, yield 64.2% | C(C1=CC=CC=C1)OC(=O)NC(C(=O)OCC)C#N | C13H14N2O4
